plaintext
* Netlist for the given schematic

* Voltage Sources
VB1 5 0 DC V_B1
VB2 3 0 DC V_B2

* Current Sources
IX 2 0 DC Ix
IY 4 0 DC Iy

* NMOS Transistors
M1 2 5 3 3 NMOS
M2 4 3 4 4 NMOS

.model NMOS NMOS (Level=1)